US06333330B1
2-Ethyl-5-(tri-n-butylstannyl)pyridine
n-Butyllithium (2 ml, 1.6M in hexanes, 3.22 mmol) was added dropwise to an ice-cooled solution of diisopropylamine (0.45 ml, 3.22 mmol) in tetrahydrofuran (6 ml) under a nitrogen atmosphere, and the solution stirred for an hour. Tri-n-butyltin hydride (0.79 ml, 2.96 mmol) was added and the solution stirred for a further 2 hours, and then cooled to −78° C. A solution of 5-bromo-2-ethylpyridine (WO 97/01552) (500 mg, 2.69 mmol) in tetrahydrofuran (4 ml) was then added dropwise, and once addition was complete, the reaction was allowed to warm to room temperature, and stirred for 18 hours. The reaction mixture was concentrated under reduced pressure and the residue partitioned between dichloromethane and aqueous ammonium chloride solution. The layers were separated, the organic phase dried (MgSO4) and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel using an elution gradient of pentane:ethyl acetate (100:0 to 90:10) to afford the tide compound, (210 mg, 19%) as a yellow oil.

reactant | n-Butyllithium | 3.22 mmol, 1.6M, 2 ml | C(CCC)[Li]
reactant | diisopropylamine | 3.22 mmol, 0.45 ml | C(C)(C)NC(C)C | C6H15N
reactant | Tri-n-butyltin hydride | 2.96 mmol, 0.79 ml | C(CCC)[SnH](CCCC)CCCC
reactant | 5-bromo-2-ethylpyridine | 2.69 mmol, 500 mg | BrC=1C=CC(=NC1)CC | C7H8BrN
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2-Ethyl-5-(tri-n-butylstannyl)pyridine | C(C)C1=NC=C(C=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C7H8N.3C4H9.Sn/c1-2-7-5-3-4-6-8-7;3*1-3-4-2;/h3,5-6H,2H2,1H3;3*1,3-4H2,2H3;
